Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
atenolol / Lipitor / raloxifene / Fosamax
 
Attending: ___
 
Chief Complaint:
facial droop, weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a healthy ___ right-handed woman with a
history of hypertension and hypothyroidism who presents with 2
days left hand and facial weakness. 

She had been in her usual state of health on the morning of
___ and was working with some file folders when she
noticed difficulty using her left hand to grasp and move the
folders -- her fingers felt clumsy. She did not tell anybody
about these symptoms and they self-resolved by evening. However,
the next morning when she awoke, she put her feet into her
slippers then tried to stand up but instead slid down the side 
of
her bed onto the ground. She was unable to get up, feeling that
both of her legs were too weak. She injured her left elbow on 
her
nightstand on the way down. She remained on the floor for 30
minutes until her daughter came home. She was helped up and was
very tremulous, lightheaded, and nauseated. She was able to walk
unassisted, but was noted to be "wobbly". She walked to the
bathroom and vomited. She was taken to ___ where she
was given IV fluids and head CT was performed and reportedly
unremarkable. They referred her to follow-up with her PCP. Her
presenting symptoms had resolved, but her daughter noticed the
left facial droop and mentioned it to ED staff, though they did
not pay it much attention prior to discharge. This morning she
was seen by her PCP, only complaining of left facial droop but
otherwise feeling well. She was promptly referred to the ___ 
ED
for neurological evaluation. 

ROS: Positive as per HPI. On neurological review of systems, the
patient denies headache, confusion, difficulties producing or
comprehending speech, loss of vision, blurred vision, diplopia,
dysarthria, dysphagia, vertigo, tinnitus or hearing difficulty.
No bowel or bladder incontinence or retention.
 

 
Past Medical History:
Hypertension 
Hyperlipidemia 
Hypothyroidism

 
Social History:
___
Family History:
Colon cancer in two brothers and breast cancer in sister. MI in
sister. No family history of stroke, seizure, brain tumors, 
bleeding or
clotting disorders. Father died in ___ of esophageal cancer,
mother died at ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
Vitals: T:98.5   HR:64   BP:127/65   RR:18   SaO2:99%
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Able to register 3 objects and recall
___ at 10 minutes. There was no evidence of apraxia or neglect.
Calculation intact. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: Left lower droop weakness. 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    4-  5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     2
R   2     2      2      2     2 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF bilaterally; able to continue
with eyes closed. 

-Gait: Deferred. 

DISCHARGE PHYSICAL EXAM
=========================
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or 
neglect.
Calculation intact. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: Left lower droop, mild. 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     2
R   2     2      2      2     2 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF bilaterally; able to continue
with eyes closed. 

-Gait: good initiation, narrow based

 
Pertinent Results:
ADMISSION LABS
==============
___ 04:45PM BLOOD WBC-11.4* RBC-4.71 Hgb-13.9 Hct-42.0 
MCV-89 MCH-29.5 MCHC-33.1 RDW-13.5 RDWSD-43.8 Plt ___
___ 04:45PM BLOOD Neuts-75.8* Lymphs-16.3* Monos-7.1 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-8.66* AbsLymp-1.86 
AbsMono-0.81* AbsEos-0.01* AbsBaso-0.03
___ 04:45PM BLOOD Plt ___
___ 04:55PM BLOOD ___ PTT-24.8* ___
___ 04:45PM BLOOD Glucose-93 UreaN-16 Creat-1.0 Na-142 
K-5.3 Cl-103 HCO3-27 AnGap-12
___ 04:45PM BLOOD ALT-15 AST-32 AlkPhos-61 TotBili-0.2
___ 04:45PM BLOOD cTropnT-<0.01
___ 04:45PM BLOOD Albumin-4.0 Calcium-9.0 Phos-3.0 Mg-2.1 
Cholest-236*
___ 04:45PM BLOOD %HbA1c-5.8 eAG-120
___ 04:45PM BLOOD Triglyc-176* HDL-51 CHOL/HD-4.6 
LDLcalc-150* LDLmeas-156*
___ 04:45PM BLOOD TSH-0.53
___ 04:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

DISCHARGE LABS
=================
___ 05:59AM BLOOD WBC-9.5 RBC-4.79 Hgb-14.2 Hct-43.6 MCV-91 
MCH-29.6 MCHC-32.6 RDW-13.6 RDWSD-45.5 Plt ___
___ 05:59AM BLOOD Plt ___
___ 05:59AM BLOOD Glucose-109* UreaN-15 Creat-0.9 Na-144 
K-4.6 Cl-104 HCO3-28 AnGap-12
___ 05:59AM BLOOD Calcium-9.0 Phos-3.4 Mg-2.2

IMAGING
=========
CTA HEAD AND CTA NECK Study Date of ___
IMPRESSION:
1. Complete occlusion of the right internal carotid artery just 
distal to its origin, extending to the distal intracranial 
communicating segment, which is partially opacified with a 
visible intraluminal filling defect. Intraluminal filling defect 
extends to and partially involves the proximal right M1 segment 
of the MCA. Remainder of the right MCA is widely patent. 
2. Hypodensities involving the right putamen and right insular 
cortex are 
concerning for acute or subacute infarction. 
3. Mild left supraclinoid ICA luminal narrowing due to calcified 
plaque. 
4. Remainder of circle of ___ is widely patent.  No aneurysm. 

5. 38% luminal stenosis of the proximal left ICA due to 
calcified plaque. 
Otherwise, patent left carotid and bilateral vertebral arteries 
in the neck. 

MR HEAD W/O CONTRAST Study Date of ___
IMPRESSION: 
1. Right MCA territory infarction predominantly centered on the 
right putamen and extending to the centrum semiovale and insular 
cortex.  Hemorrhagic transformation is also noted in the right 
basal ganglia. 
2. Multiple smaller foci of acute infarction within the right 
MCA territory. 

TTE ___
IMPRESSION: No structural cardiac source of embolism (e.g.patent 
foramen ovale/atrial septal defect, intracardiac thrombus, or 
vegetation) seen. Mild symmetric left ventricular hypertrophy 
with normal cavity size, and regional/global systolic function. 
Increased PCWP. No valvular pathology or pathologicflow 
identified.

 
Brief Hospital Course:
Ms. ___ is an ___ right-handed woman with a history 
of hypertension and hypothyroidism who presented with 2 days 
left hand and facial weakness. She was found to have a right MCA 
infarct.

#Right MCA infarct:
Initially presented with 2 days of left hand weakness 
(difficulty grasping objects), left facial droop, leg weakness. 
First presented to ___ Hospital, where CT head was 
unremarkable. Followed up with PCP the following day where left 
facial droop persisted and she was subsequently referred to 
___ ED. At ___ was 0. Initial neurologic exam notable 
only for left facial droop. MRI demonstrated right MCA territory 
infarction with some hemorrhagic transformation in the right 
basal ganglia, CTA with aortic arch and carotid atherosclerosis, 
right carotid completely occluded. TTE unremarkable with no 
source of embolus or PFO. Etiology of stroke most likely large 
vessel atherosclerosis, right carotid stump embolus. Given this, 
blood pressures were tightly monitored to avoid pressure 
dependent episode. She was initiated on lisinopril 5 mg daily, 
BP range 110-130/40-70. Stroke risk factors notable for: HgA1C: 
5.8, LDL 156. She was initiated on aspirin and plavix, with plan 
to discontinue plavix in 3 months. Reports a history of poor 
tolerance to atorvastatin, thus was initiated on rosuvastatin 20 
mg daily. ___ and OT recommended discharge home. Patient was at 
functional baseline at discharge, able to ambulate 
independently, neurologic exam notable only for stable mild left 
facial droop.

#HTN:
Discontinued home HCTZ, initiated lisinopril as above.

#Hypothyroidism:
Continued home levothyroxine.

TRANSITIONAL ISSUES:
=====================
[] continue to monitor blood pressure in the setting of new 
stroke and right internal carotid complete occlusion, goal SBP 
110-150
[] A1C prediabetic 5.8, continue to monitor and consider 
metformin initiation
[] please discontinue plavix 3 months after discharge (beginning 
of ___, continue aspirin indefinitely 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 156) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? () Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 12.5 mg PO DAILY 
2. Levothyroxine Sodium 88 mcg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
4.  Rosuvastatin Calcium 20 mg PO QPM 
RX *rosuvastatin [Crestor] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
5.  Levothyroxine Sodium 88 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#acute ischemic stroke
#HTN
#hypothyroidism
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you at the ___ 
___.

You were hospitalized due to symptoms of facial droop and 
weakness resulting from an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 1) high blood pressure
 2) high cholesterol

 We are changing your medications as follows:  
 1) addition of blood thinners called "aspirin" and "plavix"
 2) addition of "rosuvastatin" to help lower your cholesterol
 3) replaced HCTZ with "lisinopril" to help lower your blood 
pressure

Please take your other medications as prescribed.  
Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms: 
 - Sudden partial or complete loss of vision
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body

Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___